US08865744B1
To 3-Amino-4,4-dimethyl-pent-2-endinitrile (10.0 g, 74 mmol) in MeOH (150 mL) is added NH2OH.HCl (10.0 g, 144 mmol). The mixture is stirred at 40° C. for 7 h, concentrated, suspended in isopropyl acetate (100 mL) and washed with 4 N aq. NaOH (2×100 mL) and brine (50 mL). The extracted org. layer is concentrated to provide 7.40 g of 2-(5-Amino-isoxazol-3-yl)-2-methyl-propionitrile. Yield: 66%; ESI-MS: 152 [M+H]+; 1H-NMR (DMSO-d6): 1.6, 5.1, 6.8 ppm.

reactant | 3-Amino-4,4-dimethyl-pent-2-endinitrile | 74 mmol, 10.0 g | NC(=CC#N)C(C#N)(C)C | C7H9N3
reactant | NH2OH.HCl | 144 mmol, 10.0 g | NO.Cl
solvent | MeOH | 150 mL | CO | CH4O
product | 2-(5-Amino-isoxazol-3-yl)-2-methyl-propionitrile | 7.40 g, Yield: 66% | NC1=CC(=NO1)C(C#N)(C)C | C7H9N3O
